US06780858B2
1-(4-Chloro-3-trifluoromethyl-phenyl)-3-(3-hydroxy-5-trifluoromethyl-phenyl)-urea (133)
1-(4-Chloro-3-trifluoromethyl-phenyl)-3-(3-methoxymethoxy-5-trifluoromethyl-phenyl)-urea (100 mg, 0.25 mmol) from above was dissolved in a 1:1 solution of 3N HCl/ethyl acetate (20 mL) and stirred vigorously at room temperature for 16 h. Additional ethyl acetate was then added (50 mL) and the mixture was washed with water (2×50 mL), brine (50 mL), dried over Na2SO4, and concentrated. The resulting residue was purified using silica gel flash chromatography eluting with a 3:1 hexane/ethyl acetate solution. Similar fractions were pooled and concentrated to the title compound (72 mg, 72%) as an off-white solid. 1H NMR (CD3OD) δ 7.97 (d, J=2 Hz, 1 H), 7.64 (dd, J=2 Hz, J=8 Hz, 1 H), 7.50 (d, J=8 Hz, 1 H), 7.22 (s, 1 H), 7.21 (s, 1 H), 6.75 (s, 1 H); Electrospray MS (MH+) m/z 399.

reactant | 1-(4-Chloro-3-trifluoromethyl-phenyl)-3-(3-methoxymethoxy-5-trifluoromethyl-phenyl)-urea | 0.25 mmol, 100 mg | ClC1=C(C=C(C=C1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)OCOC)C(F)(F)F | C17H13ClF6N2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl ethyl acetate | 3N, 20 mL | Cl.C(C)(=O)OCC
product | 1-(4-Chloro-3-trifluoromethyl-phenyl)-3-(3-hydroxy-5-trifluoromethyl-phenyl)-urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)O)C(F)(F)F | C15H9ClF6N2O2
